US04287313
Cyclohexane was charged to a 26-oz. beverage bottle equipped with a perforated Crown cap over a self-sealing rubber gasket, and the bottle and cyclohexane were then purged with nitrogen. Styrene and tetrahydrofuran were added and then the n-butyllithium was added. The temperature was adjusted to 70° C. and the bottle and its contents were tumbled in a constant temperature bath for 20 to 30 minutes, after which time the styrene polymerization was essentially complete. 1,3-Butadiene was then charged to the bottle and the polymerization was continued for one hour with continued agitation at 70° C. At the end of this time, polymerization of the 1,3-butadiene was essentially complete. Propylene oxide was then added to the polymerization reaction mixture and the mixture was agitated for 10 minutes while the temperature was reduced from 70° C. to 30° C. Epsilon-caprolactone was added and polymerization was allowed to proceed at 30° C. for 5 minutes with continued agitation. Five minutes after the epsilon-caprolactone had been charged, the polymerization reaction was terminated by the addition of 10 ml of 0.1 M hydrochloric acid. After termination was complete, one part of 2,6-di-t-butyl-4-methylphenol per 100 parts of total monomers was added as a 10 weight percent solution in 50:50 toluene:isopropanol, the contents of the bottle were emptied into a beaker, and the styrene-butadiene-epsilon-caprolactone block terpolymer was isolated by steam stripping. The recovered polymer was dried at 60° C. for about 15 hours under reduced pressure. Properties of the recovered polymers are shown in Table II.

reactant | 1,3-Butadiene | C=CC=C | C4H6
reactant | Propylene oxide | C1C(C)O1 | C3H6O
reactant | Epsilon-caprolactone | C1(CCCCCO1)=O | C6H10O2
solvent | Cyclohexane | C1CCCCC1 | C6H12
product | styrene-butadiene epsilon-caprolactone | C=CC=C.C=CC1=CC=CC=C1.C1(CCCCCO1)=O | InChI=1S/C8H8.C6H10O2.C4H6/c1-2-8-6-4-3-5-7-8;7-6-4-2-1-3-5-8-6;1-3-4-2/h2-7H,1H2;1-5H2;3-4H,1-2H2
